US07846959B2
A solution of 3-(3,4-diaminophenyl)-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one (1.5 g, 4.34 mmol) and 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea (1.8 g, 8.68 mmol) in anhydrous ethanol (15 mL) was heated to 95° C. and stirred for 18 h, at which time the reaction mixture was cooled to room temperature. The white precipitate was filtered and the powder was triturated in hot ethanol (50 mL). The white powder was collected by filtration to afford methyl {5-[1-(ethyloxy)-3-oxo-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-yl]-1H-benzimidazol-2-yl}carbamate (700 mg). 1H NMR (400 MHz, d6-DMSO): 7.82-7.81 (m, 1H), 7.58-7.52 (m, 3H), 7.51 (d, 1H), 7.33-7.16 (m, 6H), 6.90 (d, 1H), 4.75 (d, 1H), 4.75 (d, 1H), 3.79 (d, 1H), 2.74-2.67 (m, 2H), 0.65 (t, 3H); 13C NMR (100 MHz, d6-DMSO): 166.9, 154.5, 147.8, 145.7, 137.6, 132.6, 131.1, 130.7, 130.6, 129.4, 128.3, 127.8, 126.8, 122.9, 122.8, 118.9, 95.3, 57.9, 52.4, 42.5, 14.1; MS (EI) for C26H24N4O4: 457 (MH+).

reactant | 3-(3,4-diaminophenyl)-3-hydroxy-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one | 4.34 mmol, 1.5 g | NC=1C=C(C=CC1N)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)O | C21H19N3O2
reactant | 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea | 8.68 mmol, 1.8 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | methyl {5-[1-(ethyloxy)-3-oxo-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-yl]-1H-benzimidazol-2-yl}carbamate | 700 mg | C(C)OC1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)C1=CC2=C(NC(=N2)NC(OC)=O)C=C1 | C26H24N4O4
